US04476056
Ethyl (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraenoate could be dissolved in methylene chloride and treated with diisobutylaluminum hydride in hexane solution at -60° C. under argon. The temperature is raised to -10° C. for 10 to 30 minutes and then a saturated solution of magnesium sulfate is added. The mixture is stirred at 25° C. for 2 hours, filtered and evaporated to give (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-ol which is further purified by conventional chromatography.

reactant | Ethyl (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraenoate | C\C(=C/C(=O)OCC)\C=C\C=C(\C=C\C1=C(C(=C(C=C1C)OC(F)(F)F)C)C)/C | C23H27F3O3
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (2E,4E,6E,8E)-3,7-dimethyl-9-[2,3,6-trimethyl-4-(trifluoromethoxy)phenyl]-nonatetraen-1-ol | C/C(/C=C/O)=C\C=C\C(=C\CC1=C(C(=C(C=C1C)OC(F)(F)F)C)C)\C | C21H25F3O2
